US04772600
(S)-2-(4-Chlorophenyl)-N,α-dimethyl-N-phenyl-3H-imidazo[4,5-b]pyridine-3-acetamide
Under a nitrogen atmosphere, oxalyl chloride (2.18 g, 0.0172 mole) was added slowly, dropwise, to a stirred and chilled (10° C.) suspension of (S)-2-(4-chlorophenyl)-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0166 mole) in dry dimethylformamide (75 ml). The mixture was stirred at room temperature for 3 hours, heated at 50° C. for one hour and cooled to room temperature. An additional 0.0057 mole of oxalyl chloride was added and the mixture was stirred at room temperature for 30 minutes. N-Methylaniline (1.92 g, 0.0179 mole) was added and the reaction mixture was stirred at room temperature under nitrogen overnight. The mixture was poured into 400 ml of ice water and triethylamine (6 ml) was added. The precipitated solid was collected by filtration, rinsed with water, redissolved in hot isopropyl alcohol, treated with charcoal, filtered hot and allowed to cool. Addition of water caused a solid to form. The solid was collected by filtration, rinsed with water and dried under high vacuum overnight to give 4.2 g (65%) of title compound, mp 174°-177° C.

reactant | oxalyl chloride | 0.0172 mole, 2.18 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (S)-2-(4-chlorophenyl)-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0166 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1[C@H](C(=O)O)C | C15H12ClN3O2
reactant | oxalyl chloride | 0.0057 mole | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-Methylaniline | 0.0179 mole, 1.92 g | CNC1=CC=CC=C1 | C7H9N
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | (S)-2-(4-Chlorophenyl)-N,α-dimethyl-N-phenyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 4.2 g, 65% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1[C@H](C(=O)N(C1=CC=CC=C1)C)C | C22H19ClN4O
